US06063782
1-(2-Butenyl)-7-(4-difluoromethoxybenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine
The title compound (cis/trans=21/79) was prepared as a white powder in 37.8% yield in a similar procedure to that described in Example 1 by using 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine (cis/trans=20/80) and 4-difluoromethoxybenzyl alcohol.

reactant | 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine | C(C=CC)N1C(=C(C=2C1=C(N=NC2)Cl)C)C | C12H14ClN3
reactant | 4-difluoromethoxybenzyl alcohol | FC(OC1=CC=C(CO)C=C1)F | C8H8F2O2
product | 1-(2-Butenyl)-7-(4-difluoromethoxybenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 37.8% yield | C(C=CC)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)OC(F)F)C)C | C20H21F2N3O2
